US07745641B2
In a similar manner to Step 1 of Example 227, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.126 g, 0.274 mmol) was dissolved in acetonitrile (6.0 mL), and the solution was treated with triethylamine (0.0760 mL, 0.548 mmol) and 2-chlorobenzenesulfonyl chloride (0.0867 g, 0.411 mmol) to obtain 4-(2-chlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.130 g, yield 75%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.274 mmol, 0.126 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.548 mmol, 0.0760 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzenesulfonyl chloride | 0.411 mmol, 0.0867 g | ClC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | acetonitrile | 6.0 mL | C(C)#N | C2H3N
product | 4-(2-chlorobenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.130 g, yield 75% | ClC1=C(C=CC=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C33H34ClN3O6S
